US06881737B2
A mixture of 2,4-dichloro-1,3,5-triazine (0.5 g, 3.34 mmol) and solid K2CO3 (2.3 g, 16.7 mmol) was suspended in ACCN (20 mL) under nitrogen at 0° C. followed by addition of trans-2-phenylcyclopropylamine hydrochloride (566 mg, 3.34 mmol). The mixture was stirred at 0° C. for 1.25 h. The reaction was quenched by pouring onto ice/water. The white solid formed was collected by suction filtration. The solid was dissolved into EtOAc (100 mL), washed with brine, dried over Na2SO4, concentrated under reduced pressure then purified by column chromatography (elution with 1:1 EtOAc/hexanes followed by EtOAc) to give (4-chloro-[1,3,5]triazin-2-yl)-(2-phenyl-cyclopropyl)amine.

reactant | 2,4-dichloro-1,3,5-triazine | 3.34 mmol, 0.5 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | K2CO3 | 16.7 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-2-phenylcyclopropylamine hydrochloride | 3.34 mmol, 566 mg | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)N
product | (4-chloro-[1,3,5]triazin-2-yl)-(2-phenyl-cyclopropyl)amine | ClC1=NC(=NC=N1)NC1C(C1)C1=CC=CC=C1 | C12H11ClN4
